US05177272
In fact, from the reaction of 1,2,3,4-tetrachlorohexafluoro-butane with metal zinc there is obtained hexafluorobutadiene either pure or in admixture with 1,4-dichlorohexafluorobut-2-ene (Haszeldine, J. Chem. Soc., 4423 (1952)), while according to the process of the present invention from 1,2,3,4-tetrachloro -hexafluorobutadiene there is obtained pure 1,4-dichlorohexafluorobut-2-ene (see Example 8).

reactant | 1,2,3,4-tetrachlorohexafluoro-butane | ClC(C(C(C(Cl)(F)F)(Cl)F)(Cl)F)(F)F | C4Cl4F6
catalyst | zinc | [Zn] | Zn
product | hexafluorobutadiene | FC(=C(C(=C(F)F)F)F)F | C4F6
